* inverter.cir
* Parametric CMOS Inverter using BSIM4

.param tplv=65n tpwv=130n tnlv=65n tnwv=130n tpotv=1.95n tnotv=1.85n

.subckt inverter in out vdd vss
* PMOS: M1 out in vdd vdd
M1 out in vdd vdd pmos L={tplv} W={tpwv} TOX={tpotv}
* NMOS: M2 out in vss vss
M2 out in vss vss nmos L={tnlv} W={tnwv} TOX={tnotv}

.model pmos pmos level=54 version=4.8.2
.model nmos nmos level=54 version=4.8.2
.ends inverter