* nand.cir
.param tpwv=130n tpotv=1.95n
.subckt nand in1 in2 out vdd vss

* Pull-up network: series PMOS
Mp1 out net1 vdd vdd pmos L=65n W={tpwv} TOX={tpotv}
Mp2 net1 in2 vdd vdd pmos L=65n W={tpwv} TOX={tpotv}

* Pull-down network: parallel NMOS
Mn1 out in1 vss vss nmos L=65n W=130n TOX=1.85n
Mn2 out in2 vss vss nmos L=65n W=130n TOX=1.85n

.model pmos pmos level=54 version=4.8.2
.model nmos nmos level=54 version=4.8.2
.ends nand